US07632857B2
[4-(6-Methoxy-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from 2-Methoxy-5-pyridine boronic acid and (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone. MS (ES+) 366.4

reactant | 2-Methoxy-5-pyridine boronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
product | [4-(6-Methoxy-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | COC1=CC=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H27N3O2
